US05580647
N-(Acryloyloxyethyl)hexahydrophthalimide (6HPIA)
A one liter three necked flask was equipped with a mechanical stirrer, condenser and Dean-Stark trap. The flask was charged with 61 g of ethanolamine (1.0 mol.), 300 milliliters toluene, and 151 g of hexahydrophthalic anhydride (1.0 mol.). The reaction was refluxed for 4 hours at which time one mole of water had been collected from the azeotrope. The reaction flask was cooled to room temperature (about 25° C.). Next, the flask was charged with 72 g acrylic acid (1.0 mol.), 16 g p-toluenesulfonic acid (0.08 mol.), and 2 g of p-methoxyphenol (0.01 mol.). The reaction was refluxed for 16 hours at which time one mole of water had been collected from the azeotrope. Next, the reaction flask was placed under vacuum (15 mmHg, 2 kPa) and heated to 120° C. to insure removal of the toluene. The remaining liquid was collected to yield 254 g of 6HPIA (94%). The structure was confirmed by IR and 13C NMR.

reactant | ethanolamine | 1.0 mol, 61 g | C(O)CN | C2H7NO
reactant | hexahydrophthalic anhydride | 1.0 mol, 151 g | C1(C2C(C(=O)O1)CCCC2)=O | C8H10O3
reactant | water | one mole | O | H2O
reactant | acrylic acid | 1.0 mol, 72 g | C(C=C)(=O)O | C3H4O2
reactant | p-toluenesulfonic acid | 0.08 mol, 16 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | p-methoxyphenol | 0.01 mol, 2 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | water | one mole | O | H2O
solvent | toluene | 300 milliliters | C1(=CC=CC=C1)C | C7H8
product | N-(Acryloyloxyethyl)hexahydrophthalimide | C(C=C)(=O)OCCN1C(C2C(C1=O)CCCC2)=O | C13H17NO4
